datasets/RMG-dataset.csv
rxn,Ea
[C:4]#[C:5][H:6].[N:0]([H:1])([H:2])[H:3]>>[H:1][C:4]#[C:5][H:6].[N:0]([H:2])[H:3],-3.07524
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12]([C:13]([C:14]([H:24])([H:25])[H:26])[c:15]1[c:16]([H:27])[c:17]([H:28])[c:18]([H:29])[c:19]([H:30])[c:20]1[H:31])([H:21])([H:22])[H:23]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])([C:3]([H:9])([H:10])[H:11])[C:13]([C:12]([H:21])([H:22])[H:23])([C:14]([H:24])([H:25])[H:26])[c:15]1[c:16]([H:27])[c:17]([H:28])[c:18]([H:29])[c:19]([H:30])[c:20]1[H:31])([H:4])[H:5],45.0617
[C:0]([C:1]([C:2]1=[C:3]([H:11])[C:4]([H:12])=[C:5]([H:13])[C:6]1([H:14])[H:15])([H:9])[H:10])([H:7])[H:8]>>[C:0]([C:1]([C:2]1=[C:6]([H:15])[C:5]([H:13])([H:14])[C:4]([H:12])=[C:3]1[H:11])([H:9])[H:10])([H:7])[H:8],101.6712
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([S:3][H:11])[H:7])([H:4])([H:5])[H:6].[C:12]([C:13]([S:14][H:20])[C:15](=[S:16])[H:21])([H:17])([H:18])[H:19]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[S:3][H:11])([H:4])([H:5])[H:6].[H:7][C:13]([C:12]([H:17])([H:18])[H:19])([S:14][H:20])[C:15](=[S:16])[H:21],103.177
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[C:14]([C:15]([H:19])([H:20])[H:21])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[H:16])[H:7])([H:5])[H:6].[C:14]([C:15]([H:19])([H:20])[H:21])([H:17])[H:18],90.3744
[C:0](=[C:1]=[C:2]([C:3](=[C:4]([H:9])[H:10])[H:8])[H:7])([H:5])[H:6].[C:11]([c:12]1[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]1[H:24])([H:18])[H:19]>>[C:0](=[C:1][C:2]([C:3](=[C:4]([H:9])[H:10])[H:8])([H:7])[C:11]([c:12]1[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]1[H:24])([H:18])[H:19])([H:5])[H:6],48.5344
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](=[C:9][C:10]([H:13])([H:14])[H:15])([H:11])[H:12]>>[C:0](=[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])([H:4])[C:9](=[C:8]([H:11])[H:12])[C:10]([H:13])([H:14])[H:15],-0.37656
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[O:4][O:5])([H:6])([H:7])[H:8].[C:15]([C:16]([C:17](=[O:18])[H:24])([H:22])[H:23])([H:19])([H:20])[H:21]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[O:4][O:5][H:24])([H:6])([H:7])[H:8].[C:15]([C:16]([C:17]=[O:18])([H:22])[H:23])([H:19])([H:20])[H:21],56.9024
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])=[C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[H:9])([H:7])[H:8].[C:17](=[C:18]([C:19]([C:20](=[C:21]([H:27])[H:28])[H:26])[H:25])[H:24])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[C:5]([C:6]([H:14])([H:15])[H:16])([H:13])[C:19]([C:18](=[C:17]([H:22])[H:23])[H:24])([C:20](=[C:21]([H:27])[H:28])[H:26])[H:25])[H:9])([H:7])[H:8],56.5677
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14]([C:15]([H:21])([H:22])[H:23])=[C:16]([C:17]([H:25])([H:26])[H:27])[H:24])[H:20])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:16]([C:14]([C:13](=[C:12]([H:18])[H:19])[H:20])[C:15]([H:21])([H:22])[H:23])([C:17]([H:25])([H:26])[H:27])[H:24])[H:5],25.7734
[C:0]([C:1]([S:2][H:9])([C:3](=[S:4])[H:10])[H:8])([H:5])([H:6])[H:7].[C:11](=[C:12]=[C:13]([H:15])[H:16])[H:14]>>[C:0]([C:1]([S:2][H:9])[C:3](=[S:4])[H:10])([H:5])([H:6])[H:7].[H:8][C:11](=[C:12]=[C:13]([H:15])[H:16])[H:14],17.9912
[C:0](=[S:1])([H:2])[H:3].[S:4][H:5]>>[C:0]([S:1])([H:2])([H:3])[S:4][H:5],-5.8576
[C:0](=[C:1]([c:2]1[c:3]([H:16])[c:4]2[c:5]3[c:6]([c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]3[c:11]1[H:20])[C:12]([H:21])=[C:13]2[H:22])[H:15])[H:14]>>[C:0](#[C:1][c:2]1[c:3]([H:16])[c:4]2[c:5]3[c:6]([c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]3[c:11]1[H:20])[C:12]([H:21])=[C:13]2[H:22])[H:14].[H:15],161.807832
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6]#[C:7][H:15])[H:8].[C:16](#[C:17][C:18]([C:19]([H:22])([H:23])[H:24])[H:21])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:12])([H:13])[H:14])[C:6]#[C:7][H:15])[C:18]([C:17]#[C:16][H:20])([C:19]([H:22])([H:23])[H:24])[H:21])[H:8],32.7189
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([O:4][H:13])([H:11])[H:12])([H:5])([H:6])[H:7].[O:14]([O:15][H:17])[H:16]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([O:4][H:13])([H:11])[H:12])[H:16])([H:5])([H:6])[H:7].[O:14][O:15][H:17],10.6746
[C:0](=[C:1]([C:2]([C:3](=[C:4]([C:5]([C:6]([C:7](=[C:8]([H:21])[H:22])[H:20])=[C:9]([C:10](=[C:11]([H:25])[H:26])[H:24])[H:23])([H:18])[H:19])[H:17])[H:16])[H:15])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]1([H:15])[C:3]([H:16])=[C:4]([H:17])[C:5]([H:18])([H:19])[C:6]([C:7](=[C:8]([H:21])[H:22])[H:20])[C:9]1([C:10](=[C:11]([H:25])[H:26])[H:24])[H:23])[H:14])([H:12])[H:13],118.826
[C:0](#[C:1][C:2]#[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[H:6].[C:10](=[C:11]([H:13])[H:14])[H:12]>>[C:0](#[C:1][C:2](=[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[C:10](=[C:11]([H:13])[H:14])[H:12])[H:6],7.02912
